US07423044B2
6-Benzyl-2-(3-nitro-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-ol
The title compound was prepared from 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester and 3-nitro-benzamidine hydrochloride according to general procedure 1. 1H NMR (DMSO-d6, 400 MHz) δ 2.76 (s, 4H), 3.28 (s, 2H), 3.71 (s, 2H), 7.25-7.40 (m, 6H), 7.81 (t, J=8.0 Hz, 1H), 8.35-8.40 (m, 1H), 8.52 (d, J=8.0 Hz, 2H), 8.93 (s, 1H); MS: m/z (ESI) 363 (M+H).

reactant | 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CN(CCC1=O)CC1=CC=CC=C1 | C15H19NO3
reactant | 3-nitro-benzamidine hydrochloride | Cl.[N+](=O)([O-])C=1C=C(C(=N)N)C=CC1
product | 6-Benzyl-2-(3-nitro-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-ol | C(C1=CC=CC=C1)N1CC2=C(N=C(N=C2O)C2=CC(=CC=C2)[N+](=O)[O-])CC1 | C20H18N4O3
